US05939439
Step 1: 4-Cyano-3-(trifluoromethanesulfonyloxy)-benzoic acid methyl ester
4-cyano-3-hydroxybenzoic acid methyl ester, Example 34, Step 3 (2 g, 11.3 mmol) was dissolved in CH2Cl2 (57 ml) and cooled to 0° C. in an ice bath. The mixture was treated with Et3N (3 ml, 22.6 mmol) followed by the addition of Tf2O (1.9 ml, 11.3 mmol). The reaction mixture was warmed to room temp. and stirred for 4 hours. Saturated NaHCO3 (10 mL) was added and the mixture was extracted with EtOAc (2×10 mL). The organic layers were combined and dried (MgSO4), filtered, and concentrated. The residue was then purified by flash chromatography (15% EtOAc/Hexane) to yield the desired product.

reactant | 4-cyano-3-hydroxybenzoic acid methyl ester | COC(C1=CC(=C(C=C1)C#N)O)=O | C9H7NO3
reactant | Et3N | 22.6 mmol, 3 ml | CCN(CC)CC | C6H15N
reactant | Tf2O | 11.3 mmol, 1.9 ml | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 57 ml | C(Cl)Cl | CH2Cl2
product | 4-Cyano-3-(trifluoromethanesulfonyloxy)-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C#N)OS(=O)(=O)C(F)(F)F)=O | C10H6F3NO5S
